US04699939
Preparation of N,N'-bis[3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionyl]-1,6-diaminohexane
11.6 of 1,6-diaminohexane are heated, under nitrogen, to 175° C. Then 0.2 g of acetic acid are added. Over 1 hour, 68.9 g of methyl 3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionate are added to this mixture. The reaction mixture is heated for a further 3 hours at 175° C. The mixture is stirred, in a mixer, with 100 ml of 1% aqueous sodium bicarbonate. The resultant solid is isolated by suction filtration and washed with water until neutral. After drying, 60.3 g of a colourless powder with a melting point of 28° C. are obtained.

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | methyl 3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionate | 68.9 g | C1(CCCCC1)C=1C=C(C=C(C1O)C1CCCCC1)CCC(=O)OC | C22H32O3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
product | N,N'-bis[3-(3,5-dicyclohexyl-4-hydroxyphenyl)propionyl]-1,6-diaminohexane | 60.3 g | C1(CCCCC1)C=1C=C(C=C(C1O)C1CCCCC1)CCC(=O)NCCCCCCNC(CCC1=CC(=C(C(=C1)C1CCCCC1)O)C1CCCCC1)=O | C48H72N2O4
